US07763639B2
3-(4-PROPYLPIPERAZIN-1-YL)-2-(TRIFLUORO-METHYL)BENZONITRILE
Preparation according to Example 1: 3-piperazin-1-yl-2-(trifluoromethyl)benzonitrile (0.83 g, 3.25 mmol), acetonitrile (40 ml), potassium carbonate (0.88 g, 8.1 mmol) and 1-iodopropane (0.255 ml, 3.25 mmol). Yield: 0.74 g (77%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 234-236° C. MS m/z (relative intensity, 70 eV) 297 (M+, 15), 269 (14), 268 (bp), 225 (26), 177 (8).

reactant | 3-piperazin-1-yl-2-(trifluoromethyl)benzonitrile | 3.25 mmol, 0.83 g | N1(CCNCC1)C=1C(=C(C#N)C=CC1)C(F)(F)F | C12H12F3N3
reactant | potassium carbonate | 8.1 mmol, 0.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 3.25 mmol, 0.255 ml | ICCC | C3H7I
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 3-(4-PROPYLPIPERAZIN-1-YL)-2-(TRIFLUORO-METHYL)BENZONITRILE | C(CC)N1CCN(CC1)C=1C(=C(C#N)C=CC1)C(F)(F)F | C15H18F3N3
